US07585885B2
2-sec-Butylamino-6-hydroxy-isonicotinic acid
Treat a solution of 2-benzyloxy-6-sec-butylamino-isonicotinic acid methyl ester (340 mg, 1.036 mmol) in methanol (15 mL) and ethyl acetate (5 mL) with 10% Pd/C (150 mg). Stir the mixture under a balloon containing hydrogen gas for 2.5 h. Filter through a filtering agent, wash with ethyl acetate and concentrate to give the title compound which is used directly in the next step without further purification.

reactant | 2-benzyloxy-6-sec-butylamino-isonicotinic acid methyl ester | 1.036 mmol, 340 mg | COC(C1=CC(=NC(=C1)NC(C)CC)OCC1=CC=CC=C1)=O | C18H22N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 2-sec-Butylamino-6-hydroxy-isonicotinic acid | C(C)(CC)NC=1C=C(C(=O)O)C=C(N1)O | C10H14N2O3
